US09382238B2
To a suspension of N-(3-(2-(dimethylamino)ethoxy)-5-(trifluoromethyl)phenyl)-2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetamide (100 mg, 0.156 mmol) in MeOH (10 mL) was added Pd/C (16.59 mg, 0.156 mmol). The mixture was hydrogenated at 26° C. for 3 h under a H2 atmosphere. Then the solution was filtered and concentrated to give the residue. The crude material was purified by preparative HPLC (Instrument: Gilson GX281/Column: Gemini 150*25 mm*5 um/Mobile phase A: Water (0.05% ammonia solution)/Mobile phaseB: Acetonitrile/Gradient:52-82(B %)/Flowrate: 25 mL/min/Run time: 10 min) to yield a white solid of N-(3-(2-(dimethylamino)ethoxy)-5-(trifluoromethyl)phenyl)-2-(4-(5-ethoxy-6-oxo-1,6-dihydropyridin-3-yl)-2-fluorophenyl)acetamide (41.16 mg, 0.079 mmol, 50.6% yield). TLC (DCM/MeOH=10:1, Rf=0.4): 1H NMR (400 MHz, CD3OD) δ 7.56-7.47 (m, 2H), 7.46-7.39 (m, 1H), 7.38-7.29 (m, 3H), 7.24 (d, J=2.2 Hz, 1H), 6.96 (s, 1H), 4.19-4.09 (m, 4H), 3.80 (s, 2H), 2.81 (t, J=5.3 Hz, 2H), 2.36 (s, 6H), 1.47 (t, J=6.9 Hz, 3H). ES-LCMS m/z 522 (M+H).

reactant | N-(3-(2-(dimethylamino)ethoxy)-5-(trifluoromethyl)phenyl)-2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetamide | 0.156 mmol, 100 mg | CN(CCOC=1C=C(C=C(C1)C(F)(F)F)NC(CC1=C(C=C(C=C1)C=1C=NC(=C(C1)OCC)OCC1=CC=C(C=C1)OC)F)=O)C | C34H35F4N3O5
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Pd/C | 0.156 mmol, 16.59 mg | [Pd] | Pd
product | N-(3-(2-(dimethylamino)ethoxy)-5-(trifluoromethyl)phenyl)-2-(4-(5-ethoxy-6-oxo-1,6-dihydropyridin-3-yl)-2-fluorophenyl)acetamide | 0.079 mmol, 41.16 mg, 50.6% yield | CN(CCOC=1C=C(C=C(C1)C(F)(F)F)NC(CC1=C(C=C(C=C1)C1=CNC(C(=C1)OCC)=O)F)=O)C | C26H27F4N3O4
